US07482341B2
2,4-Dichloro-N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-6-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine (0.06 g) and 2,4-dichloro-6-methyl-benzenesulfonyl chloride (0.089 g) as an amorphous light yellow solid (0.058 g). MS (ESI−): 413.1 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine | 0.06 g | C1(CC1)COCC=1C=CC(=NC1C)N | C11H16N2O
reactant | 2,4-dichloro-6-methyl-benzenesulfonyl chloride | 0.089 g | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-6-methyl-benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC1=NC(=C(C=C1)COCC1CC1)C | C18H20Cl2N2O3S
